US05342846
Ethyl 1-cyclopropyl-6-fluoro-7-[3 (S)-(1,2,3-triazol-1-yl)pyrrolidin -1-yl]-1,4-dihydro-4-oxo-1,8naphthyridine-3-carboxylate
Ethyl 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate (250 mg, 0.8 mmol) was reacted with 350 mg (2 mmol) of 3(S)-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride in 8 ml of pyridine in the presence of 305 mg (2 mmol) of DBU at 80°-90° C. for 6 h. The reaction was then stirred at r.t. for 4 days. The solvent was then evaporated under reduced pressure and to the residue, water was added and extracted with chloroform. The organic layer was dried and evaporated to dryness. The residue was then chromatographed over alumina (neutral, activity III) using chloroform as solvent to yield 80 mg (24%) of the desired product. 1H NMR (CDCl3) δ: 8.48 (s, 1H), 8.05 (d, 1H), 7.76 (d, 1H), 7.71 (d, 1H), 5.46-5.32 (m, 1H), 4.46-4.26 (m, 4H), 4.15-4.0 (m, 2H), 3.56-3.42 (m, 1H), 2.71-2.57 (m, 2H), 1.4 (t, 3H), 1.26-0.95 (m, 4H).

reactant | Ethyl 7-chloro-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 0.8 mmol, 250 mg | ClC1=C(C=C2C(C(=CN(C2=N1)C1CC1)C(=O)OCC)=O)F | C14H12ClFN2O3
reactant | 3(S)-(1,2,3-triazol-1-yl)pyrrolidine hydrochloride | 2 mmol, 350 mg | Cl.N1(N=NC=C1)[C@@H]1CNCC1
reactant | DBU | 2 mmol, 305 mg | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | Ethyl 1-cyclopropyl-6-fluoro-7-[3 (S)-(1,2,3-triazol-1-yl)pyrrolidin -1-yl]-1,4-dihydro-4-oxo-1,8naphthyridine-3-carboxylate | 80 mg, 24% | C1(CC1)N1C=C(C(C2=CC(=C(N=C12)N1C[C@H](CC1)N1N=NC=C1)F)=O)C(=O)OCC | C20H21FN6O3
